US06559145B2
Ethyl 1,6,8-Trimethyl-4-oxo-1,4-dihydro-1,7-naphthyridine-3-carboxylate [BV.4]
Ethyl 4-hydroxy-6,8-dimethyl-1,7-naphthyridine-3-carboxylate (Preparation 47, 460 mg) is dissolved in DMF (30 mL) and treated with Na2CO3 (396 mg). Iodomethane (0.3 mL) is slowly added to the mixture, and it is then heated to reflux for 1 h. The reaction mixture is cooled to room temperature, quenched with water (20 mL) and extracted with CH2Cl2 (50 mL). The organic layer is separated, dried (MgSO4), and concentrated in vacuo. The residue is purified by silica gel column chromatography (5% methanol/CH2Cl2) to give 100 mg (21%) of the title compound as a white solid. Physical characteristics: MS (ESI+) m/z 261 (M+H)+; 1H NMR (DMSO) δ 8.61, 7.78, 4.23, 4.18, 3.00, 2.56, 1.28.

reactant | Ethyl 4-hydroxy-6,8-dimethyl-1,7-naphthyridine-3-carboxylate | 460 mg | OC1=C(C=NC2=C(N=C(C=C12)C)C)C(=O)OCC | C13H14N2O3
reactant | Na2CO3 | 396 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Iodomethane | 0.3 mL | IC | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | Ethyl 1,6,8-Trimethyl-4-oxo-1,4-dihydro-1,7-naphthyridine-3-carboxylate | 100 mg, 21% | CN1C=C(C(C2=CC(=NC(=C12)C)C)=O)C(=O)OCC | C14H16N2O3
